US07888364B2
1 g of 4-(chlorosulfonyl)benzoic acid was reacted with 500 mL of 2,2,2-trifluoroethanamine via Procedure H. 60 mg of 4-chloro-3-(pyridin-2-yl)aniline was coupled to 92 mg of 4-(N-(2,2,2-trifluoroethyl)sulfamoyl)benzoic acid by Procedure G and purified by reverse phase HPLC to yield N-(4-chloro-3-(pyridin-2-yl)phenyl)-4-(N-(2,2,2-trifluoroethyl)sulfamoyl)benzamide. MS (Q1) 470 (M)+.

reactant | 4-(chlorosulfonyl)benzoic acid | 1 g | ClS(=O)(=O)C1=CC=C(C(=O)O)C=C1 | C7H5ClO4S
reactant | 4-chloro-3-(pyridin-2-yl)aniline | 60 mg | ClC1=C(C=C(N)C=C1)C1=NC=CC=C1 | C11H9ClN2
reactant | 4-(N-(2,2,2-trifluoroethyl)sulfamoyl)benzoic acid | 92 mg | FC(CNS(=O)(=O)C1=CC=C(C(=O)O)C=C1)(F)F | C9H8F3NO4S
solvent | 2,2,2-trifluoroethanamine | 500 mL | FC(CN)(F)F | C2H4F3N
product | N-(4-chloro-3-(pyridin-2-yl)phenyl)-4-(N-(2,2,2-trifluoroethyl)sulfamoyl)benzamide | ClC1=C(C=C(C=C1)NC(C1=CC=C(C=C1)S(NCC(F)(F)F)(=O)=O)=O)C1=NC=CC=C1 | C20H15ClF3N3O3S
